US08048887B2
2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide
Alternative synthesis. To a sealed tube was added 5-bromo-2-methoxy-4-methyl-N-(1-(pyridin-2-yl)cyclopropyl)benzamide (1.9024 g, 5.27 mmol), dioxane (70 mL), 2-(4-fluorophenyl)-N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzofuran-3-carboxamide (2.529 g, 6.40 mmol), cesium carbonate (2.57 g, 7.90 mmol), water (14.00 mL) and finally tetrakis(triphenylphosphine)palladium(0) (0.304 g, 0.263 mmol). The vessel was sealed and heated for 16 hours at 85° C. in an oil bath. The mixture was cooled to room temperature, diluted with 20 ml of DCM and pushed through a plug of CELITE®. The resulting dark solution was concentrated to a grey oil. To this residue was added 20 ml of 0.5N HCl, followed by 20 ml of water. The flask was cooled in an ice bath for 30 minutes and the resulting solids were collected by filtration and washed with 10 ml of water and dried under vacuum. The crude product was taken up in 1:1 ethyl acetate/hexane and pushed through a plug of silica gel. Solvent was removed giving 1.65 grams of the product as a light tan solid.

reactant | 5-bromo-2-methoxy-4-methyl-N-(1-(pyridin-2-yl)cyclopropyl)benzamide | 5.27 mmol, 1.9024 g | BrC=1C(=CC(=C(C(=O)NC2(CC2)C2=NC=CC=C2)C1)OC)C | C17H17BrN2O2
reactant | dioxane | 70 mL | O1CCOCC1 | C4H8O2
reactant | 2-(4-fluorophenyl)-N-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzofuran-3-carboxamide | 6.40 mmol, 2.529 g | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C22H23BFNO4
reactant | cesium carbonate | 7.90 mmol, 2.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.263 mmol, 0.304 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 14.00 mL | O | H2O
product | 2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyridin-2-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | 1.65 grams | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NC=CC=C2)=O)OC)C | C33H28FN3O4
